US09278944B2
to a solution of N-[1-(2,6-dichloropyridin-4-yl)ethyl]cyclopropylamine (430 mg) in tetrahydrofuran (5 mL) were added di-tert-butyl dicarbonate (487 mg) and triethylamine (518 μL), and the mixture was heated to reflux for 24 hours. The reaction solution was cooled, and then thereto was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1→4/1) to give tert-butyl cyclopropyl[1-(2,6-dichloropyridin-4-yl)ethyl]carbamate [Ex(297-2)] (420 mg) as a pale yellow oil.

reactant | N-[1-(2,6-dichloropyridin-4-yl)ethyl]cyclopropylamine | 430 mg | ClC1=NC(=CC(=C1)C(C)NC1CC1)Cl | C10H12Cl2N2
reactant | di-tert-butyl dicarbonate | 487 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 518 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl cyclopropyl[1-(2,6-dichloropyridin-4-yl)ethyl]carbamate | 420 mg | C1(CC1)N(C(OC(C)(C)C)=O)C(C)C1=CC(=NC(=C1)Cl)Cl | C15H20Cl2N2O2
